US05516774
N-[4-[[3-(Trifluoroacetyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl]-3-chlorophenyl]-2-methylbenzamide
To a solution of 0.30 g of N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)-3-chlorophenyl]-2-methylbenzamide in 25 ml of methylene chloride is added 0.5 ml of trifluoroacetic anhydride followed by stirring at room temperature for 18 hours. The reaction mixture is washed with saturated NaHCO3, dried with Na2SO4, filtered through hydrous magnesium silicate and hexane added to the filtrate at the boil to give 0.22 g of colorless solid. MS: M+551.

reactant | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)-3-chlorophenyl]-2-methylbenzamide | 0.30 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)Cl | C27H22ClN3O2
reactant | trifluoroacetic anhydride | 0.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[[3-(Trifluoroacetyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl]-3-chlorophenyl]-2-methylbenzamide | 0.22 g | FC(C(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=C(C=C(C=C3)NC(C3=C(C=CC=C3)C)=O)Cl)(F)F | C29H21ClF3N3O3
